US07652015B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{6-[4-(2,6-difluoro-benzoyl)-piperazin-1-yl]-5-methyl-pyridin-3-yl}-urea
Place 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(5-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea (300 mg, 0.670 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (154 mg, 0.804 mmol), 2,6-difluorobenzoic acid (127 mg, 0.804 mmol), and 4-N,N-dimethylaminopyridine (15 mg, 0.134 mmol) in acetonitrile (10 mL). Heat the reaction to 60° C. for 18 hours. Cool reaction to room temperature and add CH2Cl2 and water. Separate organic layer and extract aqueous layer with CH2Cl2 (2×20 mL). Combine organic layers, dry over Mg2SO4, filter, and concentrate under reduced pressure. Subject residue to silica gel chromatography eluting with 10-70% EtOAc:hexane to yield the title compound. MS(ES+): m/z=588.3 [M+H].

reactant | 1-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(5-methyl-6-piperazin-1-yl-pyridin-3-yl)-urea | 0.670 mmol, 300 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=C(C1)C)N1CCNCC1 | C25H33N7O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.804 mmol, 154 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2,6-difluorobenzoic acid | 0.804 mmol, 127 mg | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-{6-[4-(2,6-difluoro-benzoyl)-piperazin-1-yl]-5-methyl-pyridin-3-yl}-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC=1C=NC(=C(C1)C)N1CCN(CC1)C(C1=C(C=CC=C1F)F)=O | C32H35F2N7O2
